US06864260B2
3-(-Methoxybenzoyl)-(4-benzylpiperidinyl)-indole-5-carboxamide
Acylation at 3-position of the indole ring system was achieved by a procedure of C. X. Yang, et al. (Synth. Commun. 27 (12), 2125 (1997). To a solution of 0.318 g (1.0 mmol) of 5(4-benzylpiperidinyl)-indole carboxamide in dichloromethane was added 2.2 mL (2.2 mmol) of 1 M solution of ZnCl2 in ether followed by the dropwise addition of EtMgBr (1.0 mmol). The mixture was stirred for 1 h and p-anisoyl chloride (180 mg, 1,1 mmol) was added. The suspension was stirred for 1 h and AlCl3 (0.05 mmol) was added. The resultant mixture was stirred for 2 h and was quenched with Sat. NH4Cl solution. The organic layer was washed with aq. NaHCO3 and brine, dried over MgSO4 and filtered. The solvent was evaporated and the product was purified by Silica gel chromatography.

reactant | 5(4-benzylpiperidinyl)-indole carboxamide | 1.0 mmol, 0.318 g | C(C1=CC=CC=C1)C1CCN(CC1)C=1C=C2C=C(NC2=CC1)C(=O)N | C21H23N3O
reactant | EtMgBr | 1.0 mmol | CC[Mg+].[Br-]
reactant | p-anisoyl chloride | 1,1 mmol, 180 mg | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
reactant | AlCl3 | 0.05 mmol | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | ether | CCOCC | C4H10O
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | ZnCl2 | [Cl-].[Cl-].[Zn+2]
product | 3-(-Methoxybenzoyl)-(4-benzylpiperidinyl)-indole-5-carboxamide | COC1=C(C(=O)C2=C(NC3=CC=C(C=C23)C(=O)N)N2CCC(CC2)CC2=CC=CC=C2)C=CC=C1 | C29H29N3O3
